US04133881
α,α-Diphenyl-α-[1-(1-phenylethyl)-3-azetidinyl]acetonitrile
To a solution of 67.9 g. (0.67 mole) of triethylamine and 114 g. (0.64 mole) of 1-(1-phenylethyl)-3-azetidinol in 800 ml. of dry benzene was added dropwise 73.6 g. (0.65 mole) of methane sulfonylchloride while cooling in an ice bath. After stirring two hours at room temperature the mixture was filtered. The filtrate was added dropwise over a 40-minute period to a refluxing suspension of the sodium salt of diphenylacetonitrile prepared by refluxing 123.5 g. (0.64 mole) of the nitrile and 28.2 g. (0.7 mole) of 57% sodium hydride in 1 liter of dry toluene for 2.5 hrs. The toluene solution was extracted with dilute hydrochloric acid. The toluene-organic layer was treated with water and a volume of isooctane equal to the toluene layer. The oily layer and aqueous layer were separated together. The toluene layer was washed several times with water. All aqueous layers (and the oil) were combined and basified with dilute sodium hydroxide and extracted with chloroform. The chloroform layer was dried over sodium sulfate and concentrated by distillation. The residue was crystallized from isooctane isopropyl ether to give 94 g. (42%) of product melting 122°-130° C.

reactant | triethylamine | 0.67 mole | C(C)N(CC)CC | C6H15N
reactant | 1-(1-phenylethyl)-3-azetidinol | 0.64 mole | C1(=CC=CC=C1)C(C)N1CC(C1)O | C11H15NO
reactant | methane sulfonylchloride | 0.65 mole | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydride | 0.7 mole | [H-].[Na+]
reactant | toluene | 1 liter | C1(=CC=CC=C1)C | C7H8
solvent | benzene | C1=CC=CC=C1 | C6H6
product | α,α-Diphenyl-α-[1-(1-phenylethyl)-3-azetidinyl]acetonitrile | C1(=CC=CC=C1)C(C#N)(C1CN(C1)C(C)C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2
